US04019892
To a solution containing 5.25 g (0.025 mole) of (2,4-dichlorophenoxy)acetaldehyde and 5.0 g (0.055 mole) of thioglycolamide in 100 ml of anhydrous ether was added 14.2 g (0.10 mole) of boron trifluoride etherate. The resulting solution was stirred at ambient temperature for 6 hours, washed with water, dried (MgSO4), and concentrated to dryness. The residual solid was purified by silica chromatography to give 1.4 g of 2-(2,4-dichlorophenoxymethyl)-4-thiazolidinone as a white crystalline solid melting at 134°-136°.

reactant | (2,4-dichlorophenoxy)acetaldehyde | 0.025 mole, 5.25 g | ClC1=C(OCC=O)C=CC(=C1)Cl | C8H6Cl2O2
reactant | thioglycolamide | 0.055 mole, 5.0 g | C(CS)(=O)N | C2H5NOS
reactant | boron trifluoride etherate | 0.10 mole, 14.2 g | B(F)(F)F.CCOCC
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2-(2,4-dichlorophenoxymethyl)-4-thiazolidinone | 1.4 g | ClC1=C(OCC2SCC(N2)=O)C=CC(=C1)Cl | C10H9Cl2NO2S
